US08115017B2
SD/IGS rats at 7 weeks of age (male, Charles River Laboratories Japan Inc.) were fasted for about 16 hours and then injected with 50 mg/kg streptozotocin (STZ) via the tail vein under ether anesthesia to prepare diabetic model rats. Similarly, another group of SD/IGS rats was injected with 1.25 mmol/L citric acid in physiological saline (1 mL/kg) via the tail vein under ether anesthesia to prepare normal control rats. At one week (8 weeks of age) after injection of STZ or 1.25 mmol/L citric acid in physiological saline, the rats were provided for an oral glucose tolerance test.

reactant | streptozotocin | CN(C(=O)N[C@@H]1[C@H]([C@@H]([C@H](OC1O)CO)O)O)N=O | C8H15N3O7
reactant | citric acid | 1.25 mmol/L | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
reactant | citric acid | 1.25 mmol/L | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
product | glucose | O=C[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | C6H12O6
